US08003666B2
1-(1,2-Diamino-1-methylethyl)-1-cyclopropanecarboxylate dihydrochloride
At room temperature, 0.82 g (3.83 mmol) of the crude product of tert-butyl 1-(1,2-diamino-1-methylethyl)-1-cyclopropanecarboxylate was dissolved in concentrated hydrochloric acid (5 mL), and the mixture was stirred at the same temperature for 30 minutes. To the reaction solution was added water, subsequently the solvent was removed under reduced pressure. And then the solution was subjected to azeotropy with ethanol (twice). As a result, 0.82 g of a crude product of the target compound (3.55 mmol, 930) was obtained as a light yellow foam-like solid. The obtained crude product was used for the subsequent reaction without further purification.

reactant | tert-butyl 1-(1,2-diamino-1-methylethyl)-1-cyclopropanecarboxylate | NC(CN)(C)C1(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | water | O | H2O
reactant | hydrochloric acid | 5 mL | Cl | ClH
product | 1-(1,2-Diamino-1-methylethyl)-1-cyclopropanecarboxylate dihydrochloride | Cl.Cl.NC(CN)(C)C1(CC1)C(=O)O | InChI=1S/C7H14N2O2.2ClH/c1-6(9,4-8)7(2-3-7)5(10)11;;/h2-4,8-9H2,1H3,(H,10,11);2*1H
